US08030302B2
Ethyl 2-(4-fluorophenyl)hydrazinecarboxylate
To a solution of 4-fluorophenylhydrazine hydrochloride (2 g, 12.05 mmol) in THF (60 mL) is added DIPEA (6 mL, 34.40 mmol), ethyl chloroformate (1.2 mL, 12.55 mmol) and 4-dimethylaminopyridine (0.16 g, 1.31 mmol). The mixture is stirred at RT for 4 hours. The reaction is diluted with water and extracted with EtOAc, the organic phase is washed with saturated aqueous sodium chloride, dried over Na2SO4 and concentrated. The residue is purified by column chromatography on silica gel, eluting with DCM then DCM:MeOH (80:1) to afford the title compound (1.92 g, 80.5% yield). MS (m/z): 199 (M+H).

reactant | 4-fluorophenylhydrazine hydrochloride | 12.05 mmol, 2 g | Cl.FC1=CC=C(C=C1)NN
reactant | DIPEA | 34.40 mmol, 6 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | ethyl chloroformate | 12.55 mmol, 1.2 mL | ClC(=O)OCC | C3H5ClO2
reactant | DCM MeOH | C(Cl)Cl.CO
solvent | THF | 60 mL | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 1.31 mmol, 0.16 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
product | Ethyl 2-(4-fluorophenyl)hydrazinecarboxylate | 1.92 g, 80.5% yield | FC1=CC=C(C=C1)NNC(=O)OCC | C9H11FN2O2
